US07691843B2
To a stirred solution of 3-ethoxythiocarbonylthio-4-methoxy-5-propylbenzoic acid methyl ester (720 mg, 2.20 mmol) in THF (13 mL) at room temperature was added MeONa (0.5 M in MeOH, 13 mL, 6.5 mmol, 3 eq.). The reaction mixture was refluxed for 75 min, then cooled to room temperature and added to 1 N HCl aqueous solution (100 mL). The resulting mixture was extracted with EtOAc/hexanes (1:1, 100 mL). The organic layer was washed with brine (50 mL), dried over MgSO4 and concentrated in vacuo to give 3-mercapto-4-methoxy-5-propylbenzoic acid methyl ester (0.55 g). The product was used without further purification.

reactant | 3-ethoxythiocarbonylthio-4-methoxy-5-propylbenzoic acid methyl ester | 2.20 mmol, 720 mg | COC(C1=CC(=C(C(=C1)CCC)OC)SC(=S)OCC)=O | C15H20O4S2
reactant | MeONa | 6.5 mmol, 0.5 M, 13 mL, 3 eq. | CO[Na]
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 3-mercapto-4-methoxy-5-propylbenzoic acid methyl ester | 0.55 g | COC(C1=CC(=C(C(=C1)CCC)OC)S)=O | C12H16O3S
